US04110339
A reaction mixture was prepared from 2.7 g. of 1-benzoyl-4-keto-1,2,2a,3,4,5-hexahydrobenz[cd]indole, 7.7 g. of ammonium acetate and 125 ml. of ethanol. 590 mg. of sodium cyanoborohydride were added and the resulting suspension stirred at ambient temperature for 22 hours. The reaction mixture was then poured over an ice-1N hydrochloric acid mixture and the acidic aqueous layer extracted with chloroform. The aqueous layer was then made basic with 14N aqueous ammonium hydroxide and the alkaline layer extracted several times with chloroform. The chloroform extracts were combined and the combined extracts washed with saturated aqueous sodium chloride and then dried. Evaporation of the chloroform yielded a residue which was shown to be essentially one spot material by TLC. The residue was recrystallized from a mixture of methylene dichloride and ether to yield crystals of 1-benzoyl-4-amino-1,2,2a,3,4,5-hexahydrobenz-[cd]indole melting at 118°-120° C.; yield 825 mg.

reactant | 1-benzoyl-4-keto-1,2,2a,3,4,5-hexahydrobenz[cd]indole | C(C1=CC=CC=C1)(=O)N1CC2C=3C(=CC=CC13)CC(C2)=O | C18H15NO2
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-benzoyl-4-amino-1,2,2a,3,4,5-hexahydrobenz-[cd]indole | C(C1=CC=CC=C1)(=O)N1CC2C=3C(=CC=CC13)CC(C2)N | C18H18N2O
